US09303033B2
A (2:1) mixture of (Z)-5-((4-(cyclopropylamino)-2-(methylsulfonyl)pyrazolo[1,5-a][1,3,5]triazin-8-yl)methylene)imidazolidine-2,4-dione and (Z)-5-((4-(cyclopropylamino)-2-(methylsulfinyl)pyrazolo[1,5-a][1,3,5]triazin-8-yl)methylene)imidazolidine-2,4-dione (1.0 eq, 3.6 g, 10.08 mmol) was suspended in 2-propanol (40 ml). Rac-1-pyridinil-2-yl-ethylamine (2.0 eq, 2.47 g, 20.22 mmol) was added and the mixture stirred at 90° C. for 6.5 hours. The mixture was cooled down and the solid isolated by filtration. After drying in a vacuum oven, (Z)-5-((4-(cyclopropylamino)-2-(1-(pyridin-2-yl)ethylamino)pyrazolo[1,5-a][1,3,5]triazin-8-yl)methylene)imidazolidine-2,4-dione was isolated as a pale yellow solid (3.60 g, 88%). LCMS (ES): >95% pure, m/z 406 [M+H]+.

reactant | (Z)-5-((4-(cyclopropylamino)-2-(methylsulfonyl)pyrazolo[1,5-a][1,3,5]triazin-8-yl)methylene)imidazolidine-2,4-dione | C1(CC1)NC1=NC(=NC=2N1N=CC2\C=C/2\C(NC(N2)=O)=O)S(=O)(=O)C | C13H13N7O4S
reactant | (Z)-5-((4-(cyclopropylamino)-2-(methylsulfinyl)pyrazolo[1,5-a][1,3,5]triazin-8-yl)methylene)imidazolidine-2,4-dione | 10.08 mmol, 3.6 g, 1.0 eq | C1(CC1)NC1=NC(=NC=2N1N=CC2\C=C/2\C(NC(N2)=O)=O)S(=O)C | C13H13N7O3S
reactant | 2-propanol | 40 ml | CC(C)O | C3H8O
product | (Z)-5-((4-(cyclopropylamino)-2-(1-(pyridin-2-yl)ethylamino)pyrazolo[1,5-a][1,3,5]triazin-8-yl)methylene)imidazolidine-2,4-dione | C1(CC1)NC1=NC(=NC=2N1N=CC2\C=C/2\C(NC(N2)=O)=O)NC(C)C2=NC=CC=C2 | C19H19N9O2
